US06030967
8,9-Dihydro-10-(4-pyridyl)-7H-1,3-benzodioxolo[4,5-f]isoindol-7-one N-oxide
To a dichloromethane (100 ml) solution of 8,9-dihydro-10-(4-pyridyl)-7H-1,3-benzodioxolo[4,5-f]isoindol-7-one (200 mg) was added MCPBA (350 mg) and stirred for 2 hours at room temperature. To the reaction mixture was added water. The organic layer was taken and washed with sodium hydrogencarbonate solution and water. The mixture was dried with magnesium sulfate and concentrated to give the entitled compound (84 mg).

reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | 8,9-dihydro-10-(4-pyridyl)-7H-1,3-benzodioxolo[4,5-f]isoindol-7-one | 200 mg | N1=CC=C(C=C1)C=1C=2CNC(C2C=C2C1C=1OCOC1C=C2)=O | C18H12N2O3
reactant | MCPBA | 350 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | water | O | H2O
product | 8,9-Dihydro-10-(4-pyridyl)-7H-1,3-benzodioxolo[4,5-f]isoindol-7-one N-oxide | 84 mg | N1=CC=C(C=C1)C=1C=2C[NH+](C(C2C=C2C1C=1OCOC1C=C2)=O)[O-] | C18H12N2O4
